US07135567B2
Preparation of 2,4,6-tris(4′-hydroxyphenylamino)-1,3,5-triazine (III-a)
In a 300 ml three-neck flask equipped with a stirrer, a thermometer and a dropping funnel, 3.68 g (0.02 mol) of cyanuric chloride was dissolved in 60 ml of methyl ethyl ketone. Subsequently, 6.55 g (0.06 mol) of p-aminophenol was added slowly to the solution at an inner temperature not higher than 5° C. After the addition, the solution was stirred for 30 minute, and 30 ml of an aqueous solution of 4.92 g (0.06 mol) sodium acetate was added dropwise to the solution with keeping an inner temperature of 10° C. After the dropwise addition, the solution was stirred for 30 minutes at room temperature and was reacted with refluxing for 3 hours. During the reaction, the mixed solvent of methyl ethyl ketone and water was separated into two phases. When the reaction was complete, the reaction solution was poured into 500 ml of ice water to be crystallized. After the filtration, the obtained crystal was washed once with a weakly alkaline solution and twice with 500 ml of water, and dried, to give 7.6 g of a target compound in a 95% yield.

reactant | cyanuric chloride | 0.02 mol, 3.68 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | p-aminophenol | 0.06 mol, 6.55 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | sodium acetate | 0.06 mol, 4.92 g | C(C)(=O)[O-].[Na+]
solvent | methyl ethyl ketone | 60 ml | C(C)C(=O)C | C4H8O
product | 2,4,6-tris(4′-hydroxyphenylamino)-1,3,5-triazine | 7.6 g, 95% yield | OC1=CC=C(C=C1)NC1=NC(=NC(=N1)NC1=CC=C(C=C1)O)NC1=CC=C(C=C1)O | C21H18N6O3
